US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (3-amino-propyl)-amide (I-72)
In a manner similar to that described for Method N, 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (I-53) and tert-butyl 4-aminopropylcarbamate were converted to (2-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester, which was subsequently deprotected (Method K) to give I-72 (30%): HRMS Calcd. for C24H26N6O4: 463.2093, Found 463.2078.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C(=O)O)N1 | C21H18N4O5
reactant | (2-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1)=O | C28H32N6O6
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (3-amino-propyl)-amide | NCCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1 | C24H26N6O4
